US06864390B2
((1S,3R)-1-Benzyl-3-methyl-cyclopentylmethyl)-carbamic acid methyl ester (2.6 g, 9.9 mmol) and sodium periodate (29.8 g, 140 mmol) were stirred together in carbon tetrachloride (30 mL), acetonitrile (30 mL), and water for 6 hours. The mixture was cooled to 0° C., and ruthenium(III) chloride (0.04 g, 0.2 mmol) was added to the reaction mixture. The reaction was allowed to warm to room temperature and stirred for 20 hours. Diethyl ether (50 mL) was added, and the mixture was then extracted with saturated aqueous sodium hydrogen carbonate (200 mL). The aqueous layer was acidified to pH 1 with 4N hydrochloric acid and re-extracted with ethyl acetate (200 mL), dried (MgSO4), and the solvent was evaporated under reduced pressure. The residue was purified by chromatography (silica gel, eluting with a gradient of heptane to 1:1 heptane:ethyl acetate) to give 0.32 g (14%) of [(1S,3R)-1-(methoxycarbonylamino-methyl)-3-methyl-cyclopentyl]-acetic acid;

reactant | ((1S,3R)-1-Benzyl-3-methyl-cyclopentylmethyl)-carbamic acid methyl ester | 9.9 mmol, 2.6 g | COC(NC[C@@]1(C[C@@H](CC1)C)CC1=CC=CC=C1)=O | C16H23NO2
reactant | sodium periodate | 140 mmol, 29.8 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | acetonitrile | 30 mL | C(C)#N | C2H3N
reactant | water | O | H2O
reactant | Diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | ruthenium(III) chloride | 0.2 mmol, 0.04 g | [Ru](Cl)(Cl)Cl
product | [(1S,3R)-1-(methoxycarbonylamino-methyl)-3-methyl-cyclopentyl]-acetic acid | 0.32 g, 14% | COC(=O)NC[C@@]1(C[C@@H](CC1)C)CC(=O)O | C11H19NO4
